US04139617
Androst-5-ene-3β,17β,19-triol is dissolved in dry pyridine and trimethylsilylacetamide added thereto. The reaction is completed at room temperature within a few minutes. The pyridine is removed under reduced pressure and the residue purified from an acetone-hexane solution to yield the desired 3β,17β,19-tri(trimethylsiloxy)androst-5-ene.

reactant | Androst-5-ene-3β,17β,19-triol | C[C@@]12[C@H](CC[C@H]1[C@@H]1CC=C3C[C@H](CC[C@]3(CO)[C@H]1CC2)O)O | C19H30O3
reactant | trimethylsilylacetamide | C[Si](C)(C)CC(=O)N | C5H13NOSi
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3β,17β,19-tri(trimethylsiloxy)androst-5-ene | C[Si](O[C@@H]1CC2=CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)CO[Si](C)(C)C)O[Si](C)(C)C)(C)C | C28H54O3Si3
